US07135443B2
The same reactor that was used in Production Example 5 was charged with 64 g (2 mol) of methanol and 2 g of boron trifluoride diethyl ether complex and then the mixture was raised to 60° C. Then, 212.3 g (1 mol) of 1,2-epoxytetradecane was added dropwise to the mixture over one hour and the resulting mixture was kept as it was for 3 hours. The reaction was terminated just after confirming that 1,2-epoxytetradecane left unreacted was less than 1% by gas chromatography and then the reaction mixture was cooled. Thereafter, methanol was removed in the same manner as in Production Example 5 to obtain 2-hydroxytetradecyl methyl ether.

reactant | methanol | 2 mol, 64 g | CO | CH4O
reactant | 1,2-epoxytetradecane | 1 mol, 212.3 g | O1CC1CCCCCCCCCCCC | C14H28O
product | 2-hydroxytetradecyl methyl ether | COCC(CCCCCCCCCCCC)O | C15H32O2
